US08071586B2
B) (R)-2-Benzyl-4-benzyloxy-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester
Diisopropyl azodicarboxylate (806 mg, 3.75 mmol) was added at <10° C. to a solution of triphenylphosphine (983 mg, 3.75 mmol) in tetrahydrofuran (60 ml), followed by addition of a solution of (2-benzyloxycarbamoyl-ethyl)-((R)-1-hydroxymethyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester (1.24 g, 2.88 mmol) in tetrahydrofuran (12 ml). The reaction mixture was stirred at <10° C. for 16 h, then concentrated. The residue was purified by chromatography (SiO2; heptane/ethyl acetate 7:3) to afford the title compound (800 mg, 68%). Light yellow oil, MS (ISP)=411.3 (M+H)+.

reactant | Diisopropyl azodicarboxylate | 3.75 mmol, 806 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 3.75 mmol, 983 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2-benzyloxycarbamoyl-ethyl)-((R)-1-hydroxymethyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester | 2.88 mmol, 1.24 g | C(C)(C)(C)OC(N([C@H](CC1=CC=CC=C1)CO)CCC(NOCC1=CC=CC=C1)=O)=O | C24H32N2O5
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | (R)-2-Benzyl-4-benzyloxy-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 800 mg, 68% | C(C)(C)(C)OC(=O)N1[C@@H](CN(C(CC1)=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C24H30N2O4
